* R00 - ECTC 2024 single-module/four-phase zero-state baseline
* PURPOSE: first strict run; failure is an admissible result.
*
* ECTC 2024 Table I row used without fitting:
*   Vin=48 V, Vout=1 V, Ptotal=1 kW, nP=4, nM=4, Pmodule=250 W,
*   fsw=5 MHz, duty=8.4% (Eq. 1 exact value 1/12), Ton=16.7 ns,
*   Lcrit=2.68 nH, IL_peak=125 A.
*
* EPE 2019 Table I values used without fitting, only where ECTC 2024 is silent:
*   each flying-capacitor bank = 4x10uF + 2x4.7uF + 2x2.2uF = 53.8uF nominal;
*   output bank = 8x220uF + 32x47uF + 64x22uF = 4.672mF nominal.
* These are CROSS-SOURCE CANDIDATES, not claimed ECTC 2024 component values.
*
* NUMERICAL IDEALIZATION (not a fitted device parameter):
*   ideal voltage-controlled switches use Ron=1uOhm and Roff=1TOhm;
*   inductors include 1uOhm solely to avoid an ideal-L/ideal-switch singularity.
*   No Coss, dead time, ESR/ESL, controller delay, precharge, or fixed capacitor IC.
*
* TOPOLOGY BOUNDARY:
*   S1b-S4b are referenced to module ground following APEC 2025 Fig. 1.
*   The EPE 2019 Fig. 5 start-up state machine is NOT inserted because its
*   conventional SCB drawing uses a different cascaded low-side connection.

.param VIN=48 VOUT=1 POUT=250 NP=4 NM_TOTAL=4 FSW=5Meg T={1/FSW}
.param D={NP*VOUT/VIN} TON={D*T} LPHASE=2.68n
.param CFLY={4*10u+2*4.7u+2*2.2u} COUT={8*220u+32*47u+64*22u}
.param RLOAD={VOUT*VOUT/POUT} RON=1u ROFF=1T RLDAMP=1u VGATE=5

VRAIL vin 0 48
XMOD vin out 0 SCB4P
CCO out 0 {COUT}
RLOAD_MAIN out 0 {RLOAD}

* Ordinary interleaved PWM begins at t=0 from an all-zero capacitor state.
* This is deliberately a zero-start stress test, not a claimed start-up method.
.meas tran VOUT_AVG AVG V(out) FROM 40u TO 50u
.meas tran VOUT_PP PP V(out) FROM 40u TO 50u
.meas tran VC1_AVG AVG V(xmod:r1,xmod:x1) FROM 40u TO 50u
.meas tran VC2_AVG AVG V(xmod:r2,xmod:x2) FROM 40u TO 50u
.meas tran VC3_AVG AVG V(xmod:r3,xmod:x3) FROM 40u TO 50u
.meas tran IL1_MIN MIN I(XMOD:L1) FROM 40u TO 50u
.meas tran IL1_MAX MAX I(XMOD:L1) FROM 40u TO 50u
.meas tran IL2_MIN MIN I(XMOD:L2) FROM 40u TO 50u
.meas tran IL2_MAX MAX I(XMOD:L2) FROM 40u TO 50u
.meas tran IL3_MIN MIN I(XMOD:L3) FROM 40u TO 50u
.meas tran IL3_MAX MAX I(XMOD:L3) FROM 40u TO 50u
.meas tran IL4_MIN MIN I(XMOD:L4) FROM 40u TO 50u
.meas tran IL4_MAX MAX I(XMOD:L4) FROM 40u TO 50u
.meas tran IIN_PK MAX -I(VRAIL) FROM 0 TO 5u

.options plotwinsize=0 reltol=1e-4 abstol=1e-8 chgtol=1e-16
.save V(vin) V(out) V(xmod:r1,xmod:x1) V(xmod:r2,xmod:x2) V(xmod:r3,xmod:x3) I(VRAIL) I(XMOD:L1) I(XMOD:L2) I(XMOD:L3) I(XMOD:L4)
.tran 0 50u 0 .5n startup

.subckt SCB4P vin out g
BH1 gh1 g V=if(mod(time+T,T)<TON,VGATE,0)
BL1 gl1 g V=if(mod(time+T,T)>=TON,VGATE,0)
BH2 gh2 g V=if(mod(time+T-T/4,T)<TON,VGATE,0)
BL2 gl2 g V=if(mod(time+T-T/4,T)>=TON,VGATE,0)
BH3 gh3 g V=if(mod(time+T-T/2,T)<TON,VGATE,0)
BL3 gl3 g V=if(mod(time+T-T/2,T)>=TON,VGATE,0)
BH4 gh4 g V=if(mod(time+T-3*T/4,T)<TON,VGATE,0)
BL4 gl4 g V=if(mod(time+T-3*T/4,T)>=TON,VGATE,0)

SH1 vin r1 gh1 g SWI
CS1 r1 x1 {CFLY}
SL1 x1 g gl1 g SWI
L1 x1 out {LPHASE} Rser={RLDAMP}
SH2 r1 r2 gh2 g SWI
CS2 r2 x2 {CFLY}
SL2 x2 g gl2 g SWI
L2 x2 out {LPHASE} Rser={RLDAMP}
SH3 r2 r3 gh3 g SWI
CS3 r3 x3 {CFLY}
SL3 x3 g gl3 g SWI
L3 x3 out {LPHASE} Rser={RLDAMP}
SH4 r3 x4 gh4 g SWI
SL4 x4 g gl4 g SWI
L4 x4 out {LPHASE} Rser={RLDAMP}

.model SWI SW(Ron={RON} Roff={ROFF} Vt=2.5 Vh=0)
.ends SCB4P
.end
